US08034937B2
b) 6-Chloro-1H-indole-3-carboxylic acid
A mixture of 1.3 g (5.3 mmol) 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone and 26.5 ml of a 4 M aqueous solution of sodium hydroxide was heated at reflux for 4.5 h. The mixture was cooled to room temperature and washed with two 100-ml portions of tert-butyl methyl ether. The aqueous layer was acidified to pH 2-3 by addition of concentrated hydrochloric acid solution at 0° C. Extraction with three 100-ml portions of tert-butyl methyl ether, drying over sodium sulfate, filtration and concentration in vacuo gave 0.80 g (78%) of the crude title compound as a brown solid.

reactant | 1-(6-chloro-1H-indol-3-yl)-2,2,2-trifluoro-ethanone | 5.3 mmol, 1.3 g | ClC1=CC=C2C(=CNC2=C1)C(C(F)(F)F)=O | C10H5ClF3NO
reactant | sodium hydroxide | [OH-].[Na+]
product | 6-Chloro-1H-indole-3-carboxylic acid | 0.80 g, 78% | ClC1=CC=C2C(=CNC2=C1)C(=O)O | C9H6ClNO2
